US04735959
4-{N-[α-(4-Hydroxy-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzoic acid
An amount of 1.1 gm (2 m mol) of 4-{N-[α-(4-benzyloxyphenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzoic acid was suspended in 200 ml of ethanol and catalytically debenzylated at 50° C., under a hydrogen pressure of 5 bar, in the presence of 0.4 gm of 10% palladium/charcoal. Then, the catalyst was filtered off, and the filtrate was concentrated by evaporation and recrystallized from acetonitrile.

reactant | 4-{N-[α-(4-benzyloxyphenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzoic acid | 1.1 gm | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(C(=O)O)C=C1 | C34H34N2O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | 0.4 gm | [Pd] | Pd
product | 4-{N-[α-(4-Hydroxy-phenyl)-2-piperidino-benzyl]-aminocarbonylmethyl}-benzoic acid | OC1=CC=C(C=C1)C(C1=C(C=CC=C1)N1CCCCC1)NC(=O)CC1=CC=C(C(=O)O)C=C1 | C27H28N2O4
